US04379861
(I) N-morpholinopropyl-N'-methyl-piperazine
143 g (1 mol) of morpholinopropionaldehyde in 143 g of dioxane are forced into 100 g (1 mol) of N-methylpiperazine and 30 g of Raney nickel at 115° C. and a hydrogen pressure of 140 bar, and hydrogenated for 2 hours. The reaction mixture is suction filtered, concentrated by evaporation and distilled.

reactant | morpholinopropionaldehyde | 1 mol, 143 g | O1CCN(CC1)C(C=O)C | C7H13NO2
reactant | N-methylpiperazine | 1 mol, 100 g | CN1CCNCC1 | C5H12N2
reactant | hydrogen | [H][H] | H2
reactant | dioxane | 143 g | O1CCOCC1 | C4H8O2
catalyst | Raney nickel | 30 g | [Ni] | Ni
product | N-morpholinopropyl-N'-methyl-piperazine | O1CCN(CC1)CCCN1CCN(CC1)C | C12H25N3O
